US08471005B2
Into a round bottom flask, 6-Bromo-2-thioxo-2,3-dihydro-1H-pyrrolo[2,1-f][1,2,4]triazin-4-one (11.20 g, 0.04551 mol), Tetrahydrofuran (200 mL) and Methyl iodide (6.517 mL, 0.1047 mol) were added, respectively. The reaction was stirred at 45° C. for one hour. The solid was filtered. The solvent was removed under vacuum to give a solid. The combined solid was partitioned with water (500 mL) and saturated NaHCO3 (500 mL). The mixture was stirred for 30 minutes. The solid was filtered and washed with water to give 6-Bromo-2-methylsulfanyl-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one as a white solid (5.80, 49%).

reactant | 6-Bromo-2-thioxo-2,3-dihydro-1H-pyrrolo[2,1-f][1,2,4]triazin-4-one | 0.04551 mol, 11.20 g | BrC=1C=C2C(NC(NN2C1)=S)=O | C6H4BrN3OS
reactant | Methyl iodide | 0.1047 mol, 6.517 mL | CI | CH3I
solvent | Tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 6-Bromo-2-methylsulfanyl-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one | BrC=1C=C2C(NC(=NN2C1)SC)=O | C7H6BrN3OS
